US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 259 and using 1-ethyl-3-methyl-1H-pyrazole-5-carboxylic acid (120 mg, 0.79 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (89 μL, 1.0 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.61 mmol) and N,N-dimethylacetamide (7 mL) as starting materials, the title compound (150 mg, 53%) was obtained as a white solid.

reactant | 1-ethyl-3-methyl-1H-pyrazole-5-carboxylic acid | 0.79 mmol, 120 mg | C(C)N1N=C(C=C1C(=O)O)C | C7H10N2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.0 mmol, 89 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.61 mmol, 200 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 7 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1-ethyl-3-methyl-1H-pyrazole-5-carboxamide | 150 mg, 53% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2CC)C)F)C1 | C23H22FN7O3
